US07304071B2
2-Fluoro-4-iodo-5-methyl-pyridine (0.90 g, 3.8 mmol), 4-carboxymethyl-phenyl boronic acid (0.72 g, 4.0 mmol), potassium phosphate (2.5 g, 11.8 mmol), and dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium (II) dichloromethane adduct (0.30 g, 0.37 mmol) were combined in a screw cap tube and 1.4-dioxane (20 mL) was added. Argon was bubbled through the reaction mixture, which was then sealed and heated to 95° C. overnight. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to a red solid, which was purified by chromatography on silica (EtOAc 0 to 40% in hexanes) to afford 4-(2-fluoro-5-methyl-pyridin-4-yl)-benzoic acid methyl ester, 0.62 g, 2.5 mmol, 66% yield. 1H NMR 500 MHz (CDCl3): 8.05 (m, 3H), 7.33 (d, 2H), 6.74 (s, 1H), 3.90 (s, 3H), 2.15 (s, 3H).

reactant | 2-Fluoro-4-iodo-5-methyl-pyridine | 3.8 mmol, 0.90 g | FC1=NC=C(C(=C1)I)C | C6H5FIN
reactant | 4-carboxymethyl-phenyl boronic acid | 4.0 mmol, 0.72 g | C(=O)(O)CC1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | potassium phosphate | 11.8 mmol, 2.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1.4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium (II) dichloromethane adduct | 0.37 mmol, 0.30 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4-(2-fluoro-5-methyl-pyridin-4-yl)-benzoic acid methyl ester | 66% yield | COC(C1=CC=C(C=C1)C1=CC(=NC=C1C)F)=O | C14H12FNO2
